US04603197
In addition to glycerol (2.0 mol) and erythritol (0.14 mol) given in Table 3 above, 2-O-β-D-glucosyl-D-erythritol (0.74 mol) and 2,4-bis-hydroxymethyl-5-O-β-D-glucosyl-1,3-dioxane (0.35 mol) were obtained as the controlled Smith-degradation products of mannoglucan. Furthermore, acetolysis of mannoglucan gave 3-O-α-D-mannosyl-D-glucose and cellobiose, and partial acid hydrolysis of mannoglucan (0.33N sulfuric acid, 100° C., 7 hrs.) yielded 6-O-α-D-mannosyl-D-glucose and cellobiose.

reactant | glycerol | 2.0 mol | OCC(O)CO | C3H8O3
reactant | erythritol | 0.14 mol | C([C@H](O)[C@H](O)CO)O | C4H10O4
product | 2-O-β-D-glucosyl-D-erythritol | 0.74 mol | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@@H](CO)[C@H](O)CO | C10H20O9
